US04330559
To a solution of 3.2 g of 2-amino-5-benzyloxycarbonylamino-2-difluoromethylpentanoic acid in 10 ml of 1 M aqueous sodium hydroxide is added at 0° C. simultaneously a solution of tert-butoxycarbonylazide, prepared from 3 g of tert-butoxycarbonylhydrazine, and a solution of 5.5 ml of 2 M aqueous sodium hydroxide. The reaction mixture is stirred overnight then extracted twice with 50 ml of ether. The alkaline aqueous solution is then adjusted to a pH of 2 with hydrochloric acid and extracted with ethylacetate. Usual work-up gives a solid residue which is dissolved in 15 ml of dry dimethylformamide and treated at room temperature with 1.6 g of benzylbromide in the presence of 2 ml of dicyclohexylamine. The reaction mixture is stirred for 14 hours and then the precipitate is filtered off. The filtrate is evaporated under reduced pressure. The resulting residue is partitioned between 100 ml of ethylacetate and water. The organic phase is washed successively with 20 ml of 1 normal aqueous hydrochloric acid, 20 ml of water, 20 ml of 5% aqueous sodium bicarbonate, 20 ml of water and 50 ml of brine then dried over magnesium sulfate. The solvent is evaporated and the residue taken up in 10 ml of trifluoroacetic acid. After 1 hour at room temperature the excess trifluoroacetic acid is stripped off under reduced pressure and the residue is taken up in a saturated solution of sodium bicarbonate and extracted with 50 ml of ether. The ether phase is dried over magnesium sulfate and then added at 0° C. to a solution of N-benzyloxycarbonyl-O-ethoxycarbonylalanine (2 g) in 20 ml of ether. Stirring is continued overnight at room temperature. The solvent is evaporated and the resulting syrupy residue is taken up in glacial acetic acid (20 ml) and hydrogenated over Pd/C 10% (200 mg). After completion of the hydrogen uptake the catalyst is filtered off. The filtrate is concentrated under reduced pressure with toluene and the residue purified by ion exchange chromatography on an acidic resin to give 5-amino-2-(2-aminopropionylamino)-2-difluoromethylpentanoic acid.

reactant | 2-amino-5-benzyloxycarbonylamino-2-difluoromethylpentanoic acid | 3.2 g | NC(C(=O)O)(CCCNC(=O)OCC1=CC=CC=C1)C(F)F | C14H18F2N2O4
reactant | tert-butoxycarbonylazide | C(C)(C)(C)OC(=O)N=[N+]=[N-] | C5H9N3O2
reactant | tert-butoxycarbonylhydrazine | 3 g | C(C)(C)(C)OC(=O)NN | C5H12N2O2
reactant | benzylbromide | 1.6 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | dicyclohexylamine | 2 ml | C1(CCCCC1)NC1CCCCC1 | C12H23N
solvent | sodium hydroxide | 1 M, 10 ml | [OH-].[Na+]
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | sodium hydroxide | 2 M, 5.5 ml | [OH-].[Na+]
product | 5-amino-2-(2-aminopropionylamino)-2-difluoromethylpentanoic acid | NCCCC(C(=O)O)(C(F)F)NC(C(C)N)=O | C9H17F2N3O3
